US06380288B1
Synthesis of 3-hydroxy-N′-(1-phenylmethylene)-2-naphthohydrazide
A four neck flask (2 liters) equipped with a thermometer, a reflux condenser and a stirrer was charged with 101 g (0.5 mol) of 3-hydroxy-2-naphthohydrazide and 1.5 liter of methanol, and 63.7 g (0.6 mol) of benzaldehyde was dropwise added thereto in 30 minutes while stirring at room temperature. After heating under reflux for 5 hours, the reaction liquid was cooled down to 15° C. or lower, and crystal was filtered off. The crystal was washed with a small amount of methanol and then dried under reduced pressure, whereby the intended compound (slightly yellow crystal) was obtained.

reactant | 3-hydroxy-2-naphthohydrazide | 0.5 mol, 101 g | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
reactant | benzaldehyde | 0.6 mol, 63.7 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 1.5 liter | CO | CH4O
product | 3-hydroxy-N′-(1-phenylmethylene)-2-naphthohydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN=CC1=CC=CC=C1 | C18H14N2O2
